US07919508B2
Scheme F, Step F2 {(1R,3S)-5-Isopropoxy-6-methyl-3-[1-(2-phenyl-butyl)-piperidin-4-yl]-isochroman-1-ylmethyl}methyamine
Dissolve N-{(1R,3S)-5-isopropoxy-6-methyl-3-[1-(2-phenyl-butyryl)-piperidin-4-yl]-isochroman-1-ylmethyl}formamide (0.10 g, 0.20 mmole) in 1M lithium aluminum hydride in diethyl ether (1.5 mL) and bring to reflux. After 3.5 hr cool to room temperature, add methylene chloride (2 mL) followed by dropwise addition of 10% NaOH until no further reaction is observed. Add 2 mL of methylene chloride and 4 mL of water and filter reaction mixture and wash the filter cake with additional methylene chloride and water. Combine the organic phases and dry over Na2SO4. Purify the crude product on a 4 g silica gel column (eluting with methylene chloride and then methylene chloride:methanol:ammonium hydroxide 89:10:1). Collect the appropriate fractions and concentrate to obtain the title compound. It was used without further purification in the next step.

reactant | N-{(1R,3S)-5-isopropoxy-6-methyl-3-[1-(2-phenyl-butyryl)-piperidin-4-yl]-isochroman-1-ylmethyl}formamide | 0.20 mmole, 0.10 g | C(C)(C)OC1=C2C[C@H](O[C@H](C2=CC=C1C)CNC=O)C1CCN(CC1)C(C(CC)C1=CC=CC=C1)=O | C30H40N2O4
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
reactant | NaOH | [OH-].[Na+]
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
reactant | water | 4 mL | O | H2O
solvent | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 1.5 mL | C(C)OCC | C4H10O
product | {(1R,3S)-5-Isopropoxy-6-methyl-3-[1-(2-phenyl-butyl)-piperidin-4-yl]-isochroman-1-ylmethyl}methyamine | C(C)(C)OC1=C2C[C@H](O[C@H](C2=CC=C1C)CNC)C1CCN(CC1)CC(CC)C1=CC=CC=C1 | C30H44N2O2
